US06800651B2
N-(4-(2-Fluorophenoxy)phenyl)-N-(ethanesulfonyl)pyrid-3-ylmethylamine
Using the method of Example 342 using N-(4-(2-fluorophenoxy)phenyl)pyrid-3-ylmethylamine and ethanesulfonyl chloride (Aldrich) and purifying via preparative HPLC eluting with 99:1 to 97:3 DCM/MeOH gave the title compound. Anal Calcd for C20H19FN2O3S.0.2H2O: C, 61.59; H, 5.01; N, 7.18. Found: C, 61.65; H, 4.85; N, 7.14. MS found 387.1 [M+H]+

reactant | N-(4-(2-fluorophenoxy)phenyl)pyrid-3-ylmethylamine | FC1=C(OC2=CC=C(C=C2)NCC=2C=NC=CC2)C=CC=C1 | C18H15FN2O
reactant | ethanesulfonyl chloride | C(C)S(=O)(=O)Cl | C2H5ClO2S
product | N-(4-(2-Fluorophenoxy)phenyl)-N-(ethanesulfonyl)pyrid-3-ylmethylamine | FC1=C(OC2=CC=C(C=C2)N(S(=O)(=O)CC)CC=2C=NC=CC2)C=CC=C1 | C20H19FN2O3S
